US07666871B2
Add 1-{2-[2-(4-bromo-phenyl)-5-methyl-oxazol-4-yl]-ethyl}-2-methylpiperidine (0.290 g, 0.798 mmol), Pd(Ph3)4 (0.041 g, 0.035 mmol), 4-methanesulfonylphenylboronic acid (0.240 g, 1.20 mmol), 2N Na2CO3 (1.98 mL), and 1,4-dioxane (1 mL) to a microwave vessel. Microwave at 30 W, 90° C. for 30-45 minutes. Concentrate and purify on silica gel eluting with 10% 2N NH3 in methanol/dichloromethane to give 1-{2-[2-(4′-methanesulfonyl-biphenyl-4-yl)-5-methyl-oxazol-4-yl]-ethyl}-2-methylpiperidine (0.120 g, 34%).

reactant | 1-{2-[2-(4-bromo-phenyl)-5-methyl-oxazol-4-yl]-ethyl}-2-methylpiperidine | 0.798 mmol, 0.290 g | BrC1=CC=C(C=C1)C=1OC(=C(N1)CCN1C(CCCC1)C)C | C18H23BrN2O
reactant | 4-methanesulfonylphenylboronic acid | 1.20 mmol, 0.240 g | CS(=O)(=O)C1=CC=C(C=C1)B(O)O | C7H9BO4S
reactant | Na2CO3 | 2N, 1.98 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,4-dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | 1-{2-[2-(4′-methanesulfonyl-biphenyl-4-yl)-5-methyl-oxazol-4-yl]-ethyl}-2-methylpiperidine | 0.120 g, 34% | CS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C=1OC(=C(N1)CCN1C(CCCC1)C)C | C25H30N2O3S
